data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_549932_1,[C:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:5](\[O:7][H:9])[H:14])([O:6][C:4]([N:8][H:10])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@@:3]([C:2]([H:15])([H:16])[H:17])([C@:5](/[C:4](=[N:8]/[H:10])[H:13])([O:7][H:9])[H:14])[O:6]1,70.56111999998251
MR_394899_1,[C:1]([C:2]([N:6]([H:14])[H:15])=[O:8])([C:3]([N:7]([H:16])[H:17])=[O:9])([N:4]([H:10])[H:13])[N:5]([H:11])[H:12]>>[C:1](=[C:2]([N:6]([H:14])[H:15])[O:8][C:3]([N:7]([H:16])[H:17])=[O:9])([N:4]([H:10])[H:13])[N:5]([H:11])[H:12],69.11034000000711
MR_69179_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:6](=[O:7])[H:11])[H:8])([N:5]([C:2]([H:12])([H:13])[H:14])[H:9])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:6](=[O:7])[H:9])[H:8])([N:5]([C:2]([H:12])([H:13])[H:14])[H:11])[H:10],72.10853499999928
MR_40161_0,[C:1]([N:3]([N:2]([C:4](=[O:5])[H:8])[H:6])[H:7])([H:9])([H:10])[H:11]>>[C:1]([N:3]([O:5]/[C:4](=[N:2]/[H:6])[H:8])[H:7])([H:9])([H:10])[H:11],70.6797175000041
MR_287828_1,[C:1](/[C:4]([C:5](=[C:3]([O:7][H:10])[O:8][H:9])[H:11])=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:5]([H:11])[C:3]([O:7][H:10])([O:8][H:9])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],46.21035500000417
MR_411354_2,[C:1](/[N:9]=[C:2](\[C:3](=[C:4]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[N:5]([H:11])[H:12])[O:8][H:10])([H:17])([H:18])[H:19]>>[C:1]([N:9]1[C:2]([O:8][H:10])=[C:3]([N:5]([H:11])[H:12])[C:4]1([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([H:17])([H:18])[H:19],40.75988999999694
MR_124139_1,[C:1]1([H:5])([H:6])[C:3]([H:4])([H:9])[C:2]([H:7])([H:8])[C:10]([N:11]([H:15])[H:16])([N:13]=[C:12]([H:17])[H:18])[O:14]1>>[C:1]([C:3]([C:2]([H:7])([H:8])[C:10]([N:11]([H:15])[H:16])=[O:14])([H:4])[H:9])([H:5])([H:6])[N:13]=[C:12]([H:17])[H:18],70.61822250001669
MR_461650_0,[C:1]1([O:6][H:8])([H:9])[C:3]([N:7]([H:10])[H:14])([H:11])[C:4]1([C:5](=[C:2]([H:15])[H:16])[H:13])[H:12]>>[C:1](/[C:3](=[N:7]/[H:10])[H:11])(/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:6][H:8])[H:9],20.61023750000558
MR_5435_0,[C:1]([C:2]([O:4][N:3]([H:6])[H:7])=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][H:7])[N:3]([H:6])[O:4]1)([H:8])([H:9])[H:10],71.14845999996206
MR_524365_0,[C:1](/[C:3](=[C:2]([N:4]([H:8])[H:9])/[N:6]=[N:7]\[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3](/[C:2]([N:4]([H:8])[H:9])=[N:6]\[N:7]([H:10])[H:12])=[N:5]\[H:11])([H:13])([H:14])[H:15],31.986184999997818
MR_244723_1,[C:1]([N:4]([C:2]([H:11])([H:14])[H:15])[N:3]([C:5](=[O:7])[H:9])[O:6][H:8])([H:10])([H:12])[H:13]>>[C:1]([N:4]([C:2]([H:11])([H:14])[H:15])[C:5]1([H:9])[N:3]([O:6][H:8])[O:7]1)([H:10])([H:12])[H:13],56.76741500003075
MR_136841_0,[C:1]([C:2]([O:4][O:6][H:12])([O:9][H:15])[O:10][H:16])([O:3][O:5][H:11])([O:7][H:13])[O:8][H:14]>>[C:1]([C:2]([O:3][O:5][H:11])([O:9][H:15])[O:10][H:16])([O:4][O:6][H:12])([O:7][H:13])[O:8][H:14],51.957627500011085
MR_213641_1,[C:1]([C:3]([C:6](=[C:7]([H:17])[H:18])[H:13])=[O:8])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:5]([H:11])[H:12])[H:10]>>[C:1]([C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])=[O:8])([N:5]([H:11])[H:12])([C:6](=[C:7]([H:17])[H:18])[H:13])[H:10],48.7354150000138
MR_642363_2,[C:1]([C:2]([N:4]([H:10])[H:11])=[O:7])([O:5][N:3]([H:8])[H:9])=[O:6]>>[C:1]([N:3]([H:8])[H:9])([O:5][C:2]([N:4]([H:10])[H:11])=[O:7])=[O:6],61.69517250000226
MR_333457_0,[C:1](=[C:4]([H:11])[H:12])([O:5][C:2](=[O:7])[H:8])[N:6]=[C:3]([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:7])[H:8])([H:11])[H:12])(=[O:5])[N:6]=[C:3]([H:9])[H:10],44.902017499990166
MR_35720_0,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[N:6]=[C:5]([H:9])[N:3]1[N:4]([H:7])[H:8]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[N:6]1/[C:5](=[N:3]/[N:4]([H:7])[H:8])[H:9],64.80004249997478
MR_593357_0,[C:1]([N:8]([H:11])[H:12])([C:10]([C:7]1=[C:9]([H:15])[C:6]1([C:4]([H:22])([H:23])[H:24])[N:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])([H:25])[H:26])([H:13])[H:14]>>[C:1]([C:7](/[C:9](=[C:6](\[C:4]([H:22])([H:23])[H:24])[N:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])[H:15])=[C:10]([H:25])[H:26])([N:8]([H:11])[H:12])([H:13])[H:14],42.27279249999384
MR_461207_1,[C:1]([C:3]([C:2]([H:9])([H:13])[H:14])=[C:4]([O:5][N:6]=[O:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:2]([H:9])([H:13])[H:14])([C:4](=[O:5])[H:8])[N:6]=[O:7])([H:10])([H:11])[H:12],12.549999999988586
MR_305203_1,[C:1](/[C:4](=[N:7]/[C:3](=[N:6]\[O:5][N:2]([H:8])[H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:4]([O:5][N:2]([H:8])[H:9])([N:7]1[C:3]([H:10])[N:6]1)[H:11])([H:12])([H:13])[H:14],50.95174499998251
MR_309769_2,[C:1](\[C:3]([H:17])([H:18])[H:19])([O:6][H:10])=[N:8]\[C:4]1([H:15])[C:5]([C:2]([O:7][H:11])([H:12])[H:13])([H:16])[N:9]1[H:14]>>[C:1]([C:2]([O:7][H:11])([H:12])[H:13])([C:3]([H:17])([H:18])[H:19])([O:6][H:10])/[N:8]=[C:4]([C:5](=[N:9]\[H:14])\[H:16])/[H:15],67.72983999999695
